US06310079B1
A stirred mixture of 2-methyl-1-(2-pyridyl)-1H-benzimidazole (0.50 g, 2.39), pyridine-2-carboxaldehyde (0.50 g, 4.67 mmol) and acetic anhydride (5 ml) was heated to 80° C. for 1.5 h and then to reflux for about 6 h. After cooling, the mixture was diluted with water (15 ml), basified with a 10% aqueous solution of sodium hydroxide (100 ml) and extracted with dichloromethane (2×100 ml). The combined organic layers were washed with water (100 ml) and extracted with 2 N hydrochloric acid (3×50 ml). The combined aqueous extracts were basified with a 50% aqueous solution of sodium hydroxide (3×50 ml) and extracted with dichloromethane (4×50 ml). The combined organic extracts were washed consecutively with water (100 ml) and brine (100 ml), dried (magnesium sulfate) and concentrated to dryness. Column chromatography (silica gel, 125 g; ethyl acetate) gave 0.18 g of free base (E)-1-(2-pyridyl)-2-[2-(2-pyridyl)ethenyl]-1H-benzimidazole as a brown oil. This product was dissolved into methanol (5 ml), treated with a 10% methanol solution of hydrogen chloride (5 ml) and concentrated to dryness. Recrystallization from 2-propanol afforded 0.15 g (21%) of the titled compound.

reactant | 2-methyl-1-(2-pyridyl)-1H-benzimidazole | 0.50 g | CC1=NC2=C(N1C1=NC=CC=C1)C=CC=C2 | C13H11N3
reactant | pyridine-2-carboxaldehyde | 4.67 mmol, 0.50 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | (E)-1-(2-pyridyl)-2-[2-(2-pyridyl)ethenyl]-1H-benzimidazole | 0.18 g | N1=C(C=CC=C1)N1C(=NC2=C1C=CC=C2)\C=C\C2=NC=CC=C2 | C19H14N4
